US09278944B2
Bis(benzonitrile)dichloropalladium (II) (12 mg) and copper (I) iodide (3.8 mg) were added to 1,4-dioxane (1 mL) under argon, and then thereto were added a solution of 10% tri-t-butylphosphine in hexane (179 μL), diisopropylamine (168 μL), 1-(5-bromo-6-methoxypyridin-3-yl)ethanone (230 mg) and a solution of methyl prop-2-yn-1-ylcarbamate (149 mg) in 1,4-dioxane (1 mL). The mixture was stirred at room temperature for 5 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=3/1→1/3) to give methyl [3-(5-acetyl-2-methoxypyridin-3-yl)prop-2-yn-1-yl]carbamate [Ex(296-2)] (188 mg) as a pale yellow powder.

reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 1-(5-bromo-6-methoxypyridin-3-yl)ethanone | 230 mg | BrC=1C=C(C=NC1OC)C(C)=O | C8H8BrNO2
reactant | methyl prop-2-yn-1-ylcarbamate | 149 mg | C(C#C)NC(OC)=O | C5H7NO2
solvent | hexane | 179 μL | CCCCCC | C6H14
solvent | diisopropylamine | 168 μL | C(C)(C)NC(C)C | C6H15N
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 3.8 mg | [Cu]I
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | methyl [3-(5-acetyl-2-methoxypyridin-3-yl)prop-2-yn-1-yl]carbamate | 188 mg | C(C)(=O)C=1C=C(C(=NC1)OC)C#CCNC(OC)=O | C13H14N2O4
